US07179819B2
To a stirred solution of cis-4-bromo-1-tert-butoxycarbonyl-(2S)-(tert-butyldiphenylsilyloxy) methylpyrrolidine (480 mg, 0.93 mmol) in DMF (5 ml) was added NaN3 (241 mg, 3.70 mmol) at room temperature. The reaction mixture was stirred at 70 for 3 days. Water was added thereto, and extracted with EtOAc. The extract was washed with water, then dried over Na2SO4, and concentrated in vacuo. The crude product was used to the subsequent reaction without further purification. The solution of the crude residue in EtOH (10 ml) was hydrogenated over 10% Pd—C under an atmospheric pressure at room temperature for 4 hr. The catalyst was filtered off, and the filtrate was concentrated in vacuo to give trans-4-amino-1tert-butoxycarbonyl-(2S)-(tert-butyldiphenylsilyloxy)methylpyrrolidine (400 mg, 95%) as a colorless oil. 1H-NMR (CDCl3) δ 1.06 (s, 9H), 1.32 and 1.45 (each s, total 9H), 2.20–2.35 (m, 1H), 3.05–3.18 (m, 1H), 3.55–4.05 (m, 6H), 7.35–7.41 (m, 6H), 7.61–7.69 (m, 4H).

reactant | cis-4-bromo-1-tert-butoxycarbonyl-(2S)-(tert-butyldiphenylsilyloxy) methylpyrrolidine | 0.93 mmol, 480 mg | Br[C@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C26H36BrNO3Si
reactant | NaN3 | 3.70 mmol, 241 mg | [N-]=[N+]=[N-].[Na+]
reactant | Water | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | EtOH | 10 ml | CCO | C2H6O
catalyst | Pd—C | [Pd] | Pd
product | trans-4-amino-1tert-butoxycarbonyl-(2S)-(tert-butyldiphenylsilyloxy)methylpyrrolidine | 400 mg, 95% | N[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C26H38N2O3Si
